US04769386
Isopropyltriphenylphosphonium iodide (6 g, 14 mmoles) was suspended in tetrahydrofuran (120 ml), stirred at -40° C. and treated with n-butyllithium (14 mmoles) dissolved in hexane (2.5M). The mixture was stirred at -40° C. for 15 minutes, cooled to -75° C. and treated with a solution of 1-bromo-11-oxoundecane (2.8 g, 11.5 mmoles) in tetrahydrofuran (30 ml). The mixture was stirred at -75° C. for 15 minutes, allowed to warm to 25° C. and concentrated in vacuo. The residue was triturated with hexane, filtered and the filtrate concentrated in vacuo. The residue was chromatographed on silica gel eluted with hexane to afford 1-bromo-12-methyl-11-tridecene.

reactant | Isopropyltriphenylphosphonium iodide | 14 mmoles, 6 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 14 mmoles | C(CCC)[Li]
reactant | 1-bromo-11-oxoundecane | 11.5 mmoles, 2.8 g | BrCCCCCCCCCCC=O | C11H21BrO
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-bromo-12-methyl-11-tridecene | BrCCCCCCCCCCC=C(C)C | C14H27Br
